* File: AND.pex.netlist.pex
* Created: Mon Apr 24 20:41:09 2023
* Program "Calibre xRC"
* Version "v2016.4_15.11"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_AND%B3 4 8 17
c0 17 0 0.12019f
c1 11 0 0.148298f
c2 8 0 0.439353f
c3 4 0 1.75056f
r4 11 14 9.96178
r5 11 13 9.96178
r6 11 17 13.2552
r7 8 14 153.5
r8 4 13 725.25
.ends

.subckt PM_AND%EN 4 9 14 17 22 25 34
c0 34 0 0.137386f
c1 31 0 0.0111496f
c2 27 0 0.151381f
c3 22 0 4.16227f
c4 18 0 1.6011f
c5 14 0 4.16227f
c6 11 0 0.0195591f
c7 10 0 1.44035f
c8 9 0 2.13979f
c9 4 0 1.94315f
r10 27 30 9.98666
r11 27 29 9.98666
r12 27 34 13.2552
r13 22 25 910.25
r14 20 25 788.75
r15 19 31 3.81101
r16 18 20 5.02856
r17 18 19 689
r18 14 17 910.25
r19 12 31 0.990414
r20 12 17 788.75
r21 10 31 3.81101
r22 10 11 630.25
r23 9 30 133.25
r24 7 11 5.02856
r25 7 9 788.75
r26 4 29 745.5
.ends

.subckt PM_AND%3 9 10 14 21 25
c0 29 0 0.11056f
c1 28 0 0.137041f
c2 25 0 0.497115f
c3 21 0 1.67546f
c4 17 0 1.30877f
c5 13 0 0.635567f
c6 8 0 0.0197899f
c7 4 0 0.102471f
c8 3 0 0.0198543f
c9 2 0 0.0479842f
r10 28 31 9.913
r11 28 30 9.913
r12 28 29 13.2552
r13 25 31 194.5
r14 21 30 684.25
r15 16 17 8.16635
r16 14 16 2.295
r17 12 13 5.44423
r18 10 12 1.53
r19 9 12 1.53
r20 7 17 4.221
r21 7 8 0.00770322
r22 6 13 1.17326
r23 5 8 0.0296412
r24 4 29 0.0646966
r25 4 5 0.383478
r26 3 6 0.039111
r27 2 8 0.0296412
r28 2 3 0.14
.ends

.subckt PM_AND%4 7 12 19 23
c0 35 0 0.132442f
c1 27 0 0.109106f
c2 26 0 0.139348f
c3 23 0 0.619834f
c4 19 0 1.80789f
c5 15 0 1.42019f
c6 10 0 0.419249f
c7 6 0 0.0133064f
r8 27 35 0.0646966
r9 26 29 9.96178
r10 26 28 9.96178
r11 26 27 13.2552
r12 23 29 298.5
r13 19 28 760.25
r14 14 15 16.3327
r15 12 14 3.825
r16 9 10 5.44423
r17 7 9 1.20789
r18 5 10 0.983043
r19 5 6 0.0296412
r20 4 15 4.43556
r21 4 6 0.0296412
r22 3 6 0.00770322
r23 3 35 0.531087
.ends

.subckt PM_AND%5 7 12 19 25 31
c0 44 0 0.159793f
c1 38 0 0.0130104f
c2 35 0 0.119269f
c3 34 0 0.126916f
c4 31 0 0.81106f
c5 28 0 0.0374886f
c6 25 0 2.10076f
c7 22 0 0.0172258f
c8 21 0 0.0431304f
c9 19 0 0.823255f
c10 15 0 1.49973f
c11 10 0 0.883053f
c12 6 0 0.0308624f
r13 35 44 0.0646966
r14 34 37 9.913
r15 34 36 9.913
r16 34 35 13.2552
r17 29 38 3.81101
r18 29 31 451
r19 28 38 3.81101
r20 28 37 16
r21 25 36 927.75
r22 21 38 0.990414
r23 21 22 25.5
r24 17 22 5.02856
r25 17 19 451
r26 14 15 3.26654
r27 12 14 0.95625
r28 9 10 1.08885
r29 7 9 0.314384
r30 5 10 1.85957
r31 5 6 0.0296412
r32 4 15 4.69122
r33 4 6 0.0296412
r34 3 6 0.00770322
r35 3 44 0.637609
.ends

.subckt PM_AND%V3 6 7 11 19
c0 14 0 2.11237f
c1 10 0 2.06658f
c2 3 0 0.0299571f
c3 2 0 0.0697367f
r4 14 19 5.55557
r5 13 14 0.816635
r6 11 13 0.239063
r7 9 10 0.544423
r8 7 9 0.159375
r9 6 9 0.159375
r10 5 19 0.453478
r11 4 10 2.65696
r12 3 4 0.039111
r13 2 5 0.039111
r14 2 3 0.14
.ends

.subckt PM_AND%B2 4 8 17
c0 17 0 0.120669f
c1 11 0 0.148208f
c2 8 0 0.439353f
c3 4 0 1.75057f
r4 11 14 9.96178
r5 11 13 9.96178
r6 11 17 13.2552
r7 8 14 153.5
r8 4 13 725.25
.ends

.subckt PM_AND%8 9 10 14 21 25
c0 29 0 0.11056f
c1 28 0 0.137041f
c2 25 0 0.496805f
c3 21 0 1.67546f
c4 17 0 1.30877f
c5 13 0 0.604981f
c6 8 0 0.00937313f
c7 4 0 0.0955894f
c8 3 0 0.0198543f
c9 2 0 0.0441357f
r10 28 31 9.913
r11 28 30 9.913
r12 28 29 13.2552
r13 25 31 194.5
r14 21 30 684.25
r15 16 17 8.16635
r16 14 16 2.295
r17 12 13 5.44423
r18 10 12 1.53
r19 9 12 1.53
r20 7 17 4.221
r21 7 8 0.00770322
r22 6 13 1.17326
r23 5 8 0.0296412
r24 4 29 0.0646966
r25 4 5 0.383478
r26 3 6 0.039111
r27 2 8 0.0296412
r28 2 3 0.14
.ends

.subckt PM_AND%9 7 12 19 23
c0 35 0 0.132442f
c1 27 0 0.109106f
c2 26 0 0.139348f
c3 23 0 0.700595f
c4 19 0 1.80523f
c5 15 0 1.42055f
c6 10 0 0.418f
c7 6 0 0.0131771f
r8 27 35 0.0646966
r9 26 29 9.96178
r10 26 28 9.96178
r11 26 27 13.2552
r12 23 29 348.5
r13 19 28 777.75
r14 14 15 16.3327
r15 12 14 3.825
r16 9 10 5.44423
r17 7 9 1.20789
r18 5 10 0.983043
r19 5 6 0.0296412
r20 4 15 4.43556
r21 4 6 0.0296412
r22 3 6 0.00770322
r23 3 35 0.531087
.ends

.subckt PM_AND%10 7 12 19 25 31 37 43
c0 57 0 0.159793f
c1 51 0 0.0111496f
c2 50 0 0.00294009f
c3 47 0 0.119268f
c4 46 0 0.126548f
c5 43 0 0.648243f
c6 39 0 0.0763808f
c7 37 0 0.612959f
c8 33 0 0.0640066f
c9 31 0 0.620076f
c10 28 0 0.0374886f
c11 25 0 2.25599f
c12 22 0 0.0173753f
c13 21 0 0.0431304f
c14 19 0 0.686269f
c15 15 0 1.55085f
c16 10 0 1.03378f
c17 6 0 0.0308624f
r18 47 57 0.0646966
r19 46 49 9.913
r20 46 48 9.913
r21 46 47 13.2552
r22 41 43 376
r23 40 51 3.81101
r24 39 41 5.02856
r25 39 40 25.5
r26 35 51 0.990414
r27 35 37 376
r28 34 50 4.5
r29 33 51 3.81101
r30 33 34 25.5
r31 29 50 4.5
r32 29 31 376
r33 28 50 4.5
r34 28 49 16
r35 25 48 1080.25
r36 21 50 4.5
r37 21 22 25.5
r38 17 22 5.02856
r39 17 19 376
r40 14 15 2.72212
r41 12 14 0.740323
r42 9 10 0.859616
r43 7 9 0.246774
r44 5 10 2.15174
r45 5 6 0.0296412
r46 4 15 4.75817
r47 4 6 0.0296412
r48 3 6 0.00770322
r49 3 57 0.637609
.ends

.subckt PM_AND%V2 10 11 15 16 20 28
c0 23 0 2.41365f
c1 19 0 1.76387f
c2 14 0 1.76724f
c3 8 0 0.0142429f
c4 4 0 0.0580438f
c5 3 0 0.0302253f
c6 2 0 0.0473495f
r7 23 28 6.60557
r8 22 23 0.526861
r9 20 22 0.150987
r10 18 19 0.710118
r11 16 18 0.201316
r12 15 18 0.201316
r13 13 14 0.710118
r14 11 13 0.201316
r15 10 13 0.201316
r16 9 19 2.07261
r17 7 28 0.453478
r18 7 8 0.00770322
r19 6 14 2.07261
r20 5 8 0.0296412
r21 4 9 0.039111
r22 4 5 0.14
r23 3 6 0.039111
r24 2 8 0.0296412
r25 2 3 0.14
.ends

.subckt PM_AND%B1 4 8 17
c0 17 0 0.12019f
c1 11 0 0.148298f
c2 8 0 0.439353f
c3 4 0 1.75056f
r4 11 14 9.96178
r5 11 13 9.96178
r6 11 17 13.2552
r7 8 14 153.5
r8 4 13 725.25
.ends

.subckt PM_AND%13 9 10 14 21 25
c0 29 0 0.11056f
c1 28 0 0.137041f
c2 25 0 0.496805f
c3 21 0 1.67546f
c4 17 0 1.30877f
c5 13 0 0.604981f
c6 8 0 0.00937313f
c7 4 0 0.0955894f
c8 3 0 0.0198543f
c9 2 0 0.0441357f
r10 28 31 9.913
r11 28 30 9.913
r12 28 29 13.2552
r13 25 31 194.5
r14 21 30 684.25
r15 16 17 8.16635
r16 14 16 2.295
r17 12 13 5.44423
r18 10 12 1.53
r19 9 12 1.53
r20 7 17 4.221
r21 7 8 0.00770322
r22 6 13 1.17326
r23 5 8 0.0296412
r24 4 29 0.0646966
r25 4 5 0.383478
r26 3 6 0.039111
r27 2 8 0.0296412
r28 2 3 0.14
.ends

.subckt PM_AND%14 7 12 19 23
c0 35 0 0.132442f
c1 27 0 0.109106f
c2 26 0 0.139348f
c3 23 0 0.829363f
c4 19 0 1.84391f
c5 15 0 1.42055f
c6 10 0 0.418f
c7 6 0 0.0131771f
r8 27 35 0.0646966
r9 26 29 9.96178
r10 26 28 9.96178
r11 26 27 13.2552
r12 23 29 408.5
r13 19 28 797.75
r14 14 15 16.3327
r15 12 14 3.825
r16 9 10 5.44423
r17 7 9 1.20789
r18 5 10 0.983043
r19 5 6 0.0296412
r20 4 15 4.43556
r21 4 6 0.0296412
r22 3 6 0.00770322
r23 3 35 0.531087
.ends

.subckt PM_AND%15 7 12 19 25 32 40 43 49
c0 64 0 0.159793f
c1 58 0 0.0111496f
c2 57 0 0.00294009f
c3 56 0 0.0130104f
c4 54 0 1.61522f
c5 53 0 0.119268f
c6 52 0 0.126548f
c7 49 0 0.873785f
c8 45 0 0.0763808f
c9 43 0 0.842954f
c10 38 0 0.524187f
c11 36 0 0.0640066f
c12 34 0 0.0827737f
c13 32 0 0.849795f
c14 29 0 0.0374886f
c15 23 0 0.847274f
c16 22 0 0.0173753f
c17 21 0 0.0431304f
c18 19 0 0.922196f
c19 15 0 1.60832f
c20 10 0 1.23665f
c21 6 0 0.0308624f
r22 53 64 0.0646966
r23 52 55 9.913
r24 52 54 9.913
r25 52 53 13.2552
r26 47 49 543.5
r27 46 58 3.81101
r28 45 47 5.02856
r29 45 46 25.5
r30 41 58 0.990414
r31 41 43 543.5
r32 38 40 307.75
r33 37 57 4.5
r34 36 58 3.81101
r35 36 37 25.5
r36 35 56 0.990414
r37 34 38 5.02856
r38 34 35 25.5
r39 30 57 4.5
r40 30 32 543.5
r41 29 57 4.5
r42 29 55 16
r43 26 56 3.81101
r44 26 54 684.75
r45 23 56 3.81101
r46 23 25 307.75
r47 21 57 4.5
r48 21 22 25.5
r49 17 22 5.02856
r50 17 19 543.5
r51 14 15 2.04159
r52 12 14 0.588462
r53 9 10 0.680529
r54 7 9 0.196154
r55 5 10 2.59
r56 5 6 0.0296412
r57 4 15 4.85557
r58 4 6 0.0296412
r59 3 6 0.00770322
r60 3 64 0.637609
.ends

.subckt PM_AND%V1 10 11 15 16 20 21 28
c0 24 0 3.0551f
c1 19 0 2.54716f
c2 14 0 2.54556f
c3 8 0 0.0142429f
c4 4 0 0.0580438f
c5 3 0 0.0302253f
c6 2 0 0.0473495f
r7 24 28 6.08513
r8 23 24 0.653308
r9 21 23 0.190456
r10 20 23 0.190456
r11 18 19 0.441424
r12 16 18 0.126796
r13 15 18 0.126796
r14 13 14 0.441424
r15 11 13 0.126796
r16 10 13 0.126796
r17 9 19 3.09522
r18 7 28 0.453478
r19 7 8 0.00770322
r20 6 14 3.09522
r21 5 8 0.0296412
r22 4 9 0.039111
r23 4 5 0.14
r24 3 6 0.039111
r25 2 8 0.0296412
r26 2 3 0.14
.ends

.subckt PM_AND%GND 7 58 65 70 75 80 85 90 95 100 105 110 115 120 125
c0 128 0 1.17882f
c1 123 0 1.25044f
c2 118 0 1.22259f
c3 113 0 1.08536f
c4 108 0 1.16743f
c5 103 0 1.25597f
c6 98 0 1.22406f
c7 93 0 1.08536f
c8 88 0 1.20137f
c9 83 0 1.30548f
c10 78 0 1.20243f
c11 73 0 1.08536f
c12 68 0 1.16743f
c13 57 0 0.0409021f
c14 31 0 0.0374828f
c15 26 0 3.67437e-21
c16 18 0 0.00307372f
r17 127 128 0.653308
r18 125 127 0.190456
r19 122 123 0.653308
r20 120 122 0.190456
r21 117 118 2.04159
r22 115 117 0.588462
r23 112 113 16.3327
r24 110 112 3.825
r25 107 108 8.16635
r26 105 107 2.295
r27 102 103 0.526861
r28 100 102 0.150987
r29 97 98 2.72212
r30 95 97 0.740323
r31 92 93 16.3327
r32 90 92 3.825
r33 87 88 8.16635
r34 85 87 2.295
r35 82 83 0.816635
r36 80 82 0.239063
r37 77 78 3.26654
r38 75 77 0.95625
r39 72 73 16.3327
r40 70 72 3.825
r41 67 68 8.16635
r42 65 67 2.286
r43 58 61 0.296958
r44 56 128 3.42878
r45 56 57 0.00770322
r46 54 123 3.42878
r47 54 55 0.00770322
r48 52 118 4.74052
r49 52 53 0.00770322
r50 50 113 5.16052
r51 50 51 0.00770322
r52 48 108 5.18487
r53 48 49 0.00770322
r54 46 103 2.90835
r55 46 47 0.00770322
r56 44 61 0.0136957
r57 44 45 0.0296412
r58 43 98 4.83791
r59 43 45 0.00770322
r60 41 61 0.801957
r61 41 42 0.0296412
r62 40 93 5.16052
r63 40 42 0.00770322
r64 38 88 5.18487
r65 38 39 0.00770322
r66 36 83 3.95835
r67 36 37 0.00770322
r68 34 78 4.90487
r69 34 35 0.00770322
r70 32 73 5.16052
r71 32 33 0.00770322
r72 30 68 5.18487
r73 30 31 0.0296412
r74 27 55 0.0296412
r75 26 57 0.0296412
r76 26 27 0.35
r77 25 53 0.0296412
r78 24 55 0.0296412
r79 24 25 0.916087
r80 23 51 0.0296412
r81 22 53 0.0296412
r82 22 23 0.815652
r83 21 49 0.0296412
r84 20 51 0.0296412
r85 20 21 0.871957
r86 19 47 0.0296412
r87 18 49 0.0296412
r88 18 19 1.365
r89 17 45 0.0296412
r90 16 47 0.0296412
r91 16 17 0.916087
r92 15 39 0.0296412
r93 14 42 0.0296412
r94 14 15 0.871957
r95 13 37 0.0296412
r96 12 39 0.0296412
r97 12 13 1.00739
r98 11 35 0.0296412
r99 10 37 0.0296412
r100 10 11 0.916087
r101 9 33 0.0296412
r102 8 35 0.0296412
r103 8 9 0.815652
r104 5 31 0.00770322
r105 5 7 0.162826
r106 4 33 0.0296412
r107 4 7 0.70913
.ends

.subckt PM_AND%VDD 44 85 86 91 96 101 106 111 116 121 126 131 136 141 142 146
+ 151 156 161 166 171 176 177 181
c0 184 0 1.3392f
c1 180 0 2.52702f
c2 174 0 1.52286f
c3 169 0 1.31041f
c4 164 0 1.11723f
c5 159 0 1.10947f
c6 154 0 1.07847f
c7 149 0 1.25921f
c8 145 0 2.00952f
c9 139 0 1.41813f
c10 134 0 1.29858f
c11 129 0 1.12923f
c12 124 0 1.1193f
c13 119 0 1.09428f
c14 114 0 1.28358f
c15 109 0 1.4023f
c16 104 0 1.28712f
c17 99 0 1.12923f
c18 94 0 1.12008f
c19 89 0 1.24211f
c20 84 0 0.0327987f
c21 44 0 0.0397624f
c22 38 0 0.00365491f
c23 36 0 0.003582f
r24 183 184 0.441424
r25 181 183 0.126796
r26 179 180 0.441424
r27 177 179 0.126796
r28 176 179 0.126796
r29 173 174 0.441424
r30 171 173 0.126796
r31 168 169 0.680529
r32 166 168 0.196154
r33 163 164 5.44423
r34 161 163 1.20789
r35 158 159 5.44423
r36 156 158 1.53
r37 153 154 5.44423
r38 151 153 1.53
r39 148 149 0.710118
r40 146 148 0.201316
r41 144 145 0.710118
r42 142 144 0.201316
r43 141 144 0.201316
r44 138 139 0.710118
r45 136 138 0.201316
r46 133 134 0.859616
r47 131 133 0.246774
r48 128 129 5.44423
r49 126 128 1.20789
r50 123 124 5.44423
r51 121 123 1.53
r52 118 119 5.44423
r53 116 118 1.53
r54 113 114 0.544423
r55 111 113 0.159375
r56 108 109 0.544423
r57 106 108 0.159375
r58 103 104 1.08885
r59 101 103 0.314384
r60 98 99 5.44423
r61 96 98 1.20789
r62 93 94 5.44423
r63 91 93 1.53
r64 88 89 5.44423
r65 86 88 1.524
r66 85 190 0.291655
r67 83 184 3.3813
r68 83 84 0.00770322
r69 81 180 3.3813
r70 81 82 0.00770322
r71 79 174 3.3813
r72 79 80 0.00770322
r73 77 169 4.25783
r74 77 78 0.00770322
r75 75 164 5.86478
r76 75 76 0.00770322
r77 73 159 5.86478
r78 73 74 0.00770322
r79 71 154 5.86478
r80 71 72 0.00770322
r81 69 149 4.40391
r82 69 70 0.00770322
r83 67 145 4.40391
r84 67 68 0.00770322
r85 65 190 0.579783
r86 65 66 0.0296412
r87 64 139 4.40391
r88 64 66 0.00770322
r89 62 190 0.126304
r90 62 63 0.0296412
r91 61 134 4.69609
r92 61 63 0.00770322
r93 59 129 5.86478
r94 59 60 0.00770322
r95 57 124 5.86478
r96 57 58 0.00770322
r97 55 119 5.86478
r98 55 56 0.00770322
r99 53 114 3.81957
r100 53 54 0.00770322
r101 51 109 3.81957
r102 51 52 0.00770322
r103 49 104 4.98826
r104 49 50 0.00770322
r105 47 99 5.86478
r106 47 48 0.00770322
r107 45 94 5.86478
r108 45 46 0.00770322
r109 42 89 5.86478
r110 42 44 0.0296412
r111 39 82 0.0296412
r112 38 84 0.0296412
r113 38 39 0.35
r114 37 80 0.0296412
r115 36 82 0.0296412
r116 36 37 0.35
r117 35 78 0.0296412
r118 34 80 0.0296412
r119 34 35 0.706087
r120 33 76 0.0296412
r121 32 78 0.0296412
r122 32 33 0.815652
r123 31 74 0.0296412
r124 30 76 0.0296412
r125 30 31 0.451957
r126 29 72 0.0296412
r127 28 74 0.0296412
r128 28 29 0.35
r129 27 70 0.0296412
r130 26 72 0.0296412
r131 26 27 0.735
r132 25 68 0.0296412
r133 24 70 0.0296412
r134 24 25 0.35
r135 23 66 0.0296412
r136 22 68 0.0296412
r137 22 23 0.35
r138 21 60 0.0296412
r139 20 63 0.0296412
r140 20 21 0.815652
r141 19 58 0.0296412
r142 18 60 0.0296412
r143 18 19 0.451957
r144 17 56 0.0296412
r145 16 58 0.0296412
r146 16 17 0.35
r147 15 54 0.0296412
r148 14 56 0.0296412
r149 14 15 0.797391
r150 13 52 0.0296412
r151 12 54 0.0296412
r152 12 13 0.35
r153 11 50 0.0296412
r154 10 52 0.0296412
r155 10 11 0.706087
r156 9 48 0.0296412
r157 8 50 0.0296412
r158 8 9 0.815652
r159 7 46 0.0296412
r160 6 48 0.0296412
r161 6 7 0.451957
r162 5 44 0.00770322
r163 4 46 0.0296412
r164 4 5 0.35
.ends

.subckt PM_AND%19 1 2
r0 1 2 4.59
.ends

.subckt PM_AND%20 1 2
r0 1 2 4.59
.ends

.subckt PM_AND%21 1 2
r0 1 2 4.59
.ends

